US08084448B2
B. (2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-ethyl)-carbamic Acid Tert-butyl Ester
Zinc dust (3 g, 46 mmol) is placed in a flask and heated under vacuum to remove traces of water. DMF (25 mL) is then added under nitrogen atmosphere. Dibromoethane (cat. 0.25 mL) is added and the mixture heated until effervescence occurs. The reaction is allowed to cool to RT over 30 min and chlorotrimethylsilane (cat 0.3 mL) is added, followed after 30 min with (2-iodoethyl)-carbamic acid tert-butyl ester (4.5 g, 16.5 mmol) dissolved in 10 mL of DMF. After 30 min, TLC indicates the iodide has been consumed and Pd2(dba)3 (0.20 g) and tri-o-tolylphosphine (0.30 g) are added, followed by the dropwise addition of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (5 g, 9.2 mmol) dissolved in 25 mL of DMF. The reaction mixture is stirred for 14 h and then diluted with EtOAc and filtered through Celite. The filtrate is washed with 1M HCl, brine and water, dried over MgSO4, filtered through a short plug of silica and concentrated to afford the title compound as a light yellow oil.

reactant | (2-iodoethyl)-carbamic acid tert-butyl ester | 16.5 mmol, 4.5 g | C(C)(C)(C)OC(NCCI)=O | C7H14INO2
reactant | iodide | [I-]
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 9.2 mmol, 5 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zinc | 46 mmol, 3 g | [Zn] | Zn
product | (2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-ethyl)-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NCCC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)=O | C27H39N3O6SSi
